US07091209B2
A mixture of 1-naphthalene sulfonamide (769 mg, 3.67 mmol) and potassium carbonate (563 mg, 4.07 mmol) in 2-butanone (9 ml) was heated under reflux for 30 min. Ethyl chloroformate (430 mg, 3.96 mmol) was added dropwise and the resulting solution was heated under reflux for 3 h. The mixture was cooled and diluted with H2O (30 ml) and AcOEt (10 ml). The aqueous layer was collected and adjusted to pH 2 by addition of 1N HCl (aq). Extraction with AcOEt (2×20 ml) and concentration of the dried organic extracts afforded ethyl 1-naphthylsulfonylcarbamate (674 mg, 67%) as a white solid. 1H NMR (DMSO-d6): δ 12.35 (bs, 1H), 8.57 (1H, d, J 8.6), 8.29 (2H, m), 8.11 (1H, d, J 7.7), 7.71 (3H, m), 3.90 (2H, q, J 7.1), 0.99 (3H, t, J 7.1).

reactant | 1-naphthalene sulfonamide | 3.67 mmol, 769 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N | C10H9NO2S
reactant | potassium carbonate | 4.07 mmol, 563 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl chloroformate | 3.96 mmol, 430 mg | ClC(=O)OCC | C3H5ClO2
solvent | 2-butanone | 9 ml | CC(CC)=O | C4H8O
solvent | H2O | 30 ml | O | H2O
solvent | AcOEt | 10 ml | CCOC(=O)C | C4H8O2
product | ethyl 1-naphthylsulfonylcarbamate | 674 mg, 67% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC(OCC)=O | C13H13NO4S
